US05367077
Following the procedure of Huckin and Wilson (Can. J. Chem. 1974, p 1346), 850 mg of methyl acetoacetate (7.32 mmol, 1 eq.) were added slowly to a cooled (0° C.) and stirring suspension of NaH (60% dispersion in mineral oil, 1 eq.) in dry THF. When evolution of H2 had ceased (10 min.), 1.05 equivalents of n-butyllithium (2.5M in hexanes) were slowly added, producing an orange solution. After an additional 10 minutes at 0° C., 1 equivalent of 2-fluoro-5-methoxybenzonitrile (1.11 grams, 7.32 mmol) was added dropwise and the resulting red solution was allowed to come to room temperature. After stirring overnight (20 h) the reaction mixture was brought to 0° C. and quenched with 1.5 mL of 12M HCl followed by H2O (20 mL). The mixture was extracted with ether (4×) and the combined ether layers were washed (4×) with saturated aqueous NaCl solution, dried (Na2SO4) and concentrated to give a red oil. Purification via column chromatography (Silica gel, EtOAc/Hexanes eluent) afforded methyl 5-amino-3-oxo-5-(2-fluoro-5-methoxyphenyl)-pent-4-enoate as a pale yellow oil.

reactant | methyl acetoacetate | 7.32 mmol, 850 mg, 1 eq. | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 1 eq. | [H-].[Na+]
reactant | n-butyllithium | 2.5M, 1.05 equivalents | C(CCC)[Li]
reactant | 2-fluoro-5-methoxybenzonitrile | 7.32 mmol, 1.11 grams, 1 equivalent | FC1=C(C#N)C=C(C=C1)OC | C8H6FNO
solvent | THF | C1CCOC1 | C4H8O
product | methyl 5-amino-3-oxo-5-(2-fluoro-5-methoxyphenyl)-pent-4-enoate | NC(=CC(CC(=O)OC)=O)C1=C(C=CC(=C1)OC)F | C13H14FNO4
